US08809267B2
Cyclopentanone (0.89 mL, 10 mmol) was added to a solution of TMSCF3 (0.5M in THF, 25 mL, 12 mmol) at 0° C. TBAF (1 M in THF, 0.076 mL, 0.076 mmol) was added and the resulting yellow solution was allowed to warm to rt over 2 h. 1M HCl (30 mL) was added and the resulting solution stirred 1 h at rt. Extraction with Et2O was followed by washing of the combined organics with brine and drying over anhydrous Na2SO4. Following concentration in vacuo, 1-trifluoromethylcyclopentanol (1.4 g, 88%) was isolated as a colorless liquid that was immediately converted to carbonic acid 4-nitrophenyl ester 1-trifluoromethylcyclopentyl ester analogously to carbonic acid cyclobutyl ester 4-nitrophenyl ester as described in Example 184 by substituting 1-trifluoromethylcyclopentanol (1.3 g, 8.4 mmol) for cyclobutanol with appropriate adjustments for scale and performing the reaction in a sealed tube for 40 h. The reaction volume was doubled with DCM and washed with 1M HCl (2×20 mL) followed by washing with 20 ml each of sat. NaHCO3, water, brine and finally dried over anhydrous MgSO4. Following concentration in vacuo, the residue was purified by column chromatography on SiO2 (12-25% EtOAc/hex) to produce 0.59 g (22% yield) of the desired product. 1H NMR (CDCl3, 400 MHz) δ 8.29 (m, 2H); 7.40 (m, 2H); 2.38 (m, 2H); 2.26 (m, 2H); 2.04 (m, 2H); 1.78 (m, 2H).

reactant | Cyclopentanone | 10 mmol, 0.89 mL | C1(CCCC1)=O | C5H8O
reactant | TMSCF3 | 12 mmol, 0.5M, 25 mL | [Si](C)(C)(C)C(F)(F)F | C4H9F3Si
catalyst | TBAF | 0.076 mmol, 1 M, 0.076 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | HCl | 1M, 30 mL | Cl | ClH
product | 1-trifluoromethylcyclopentanol | 1.4 g, 88% | FC(C1(CCCC1)O)(F)F | C6H9F3O
